US09289430B2
5-(3-(trifluoromethyl)phenyl)thiazol-2-amine
Into a 100-mL round bottom flask, was placed a solution of 2-bromo-1-(3-(trifluoromethyl)phenyl)ethanone (2.5 g, 9.40 mmol, 1.00 equiv) in methanol (50 mL), and thiourea (710 mg, 9.33 mmol, 1.00 equiv). The resulting solution was stirred overnight at 75° C. in an oil bath. The reaction mixture was cooled with a water/ice bath. The solids were collected by filtration. The residue was dissolved in 200 mL of ethyl acetate. The resulting mixture was washed with 1×50 mL of sodium hydroxide (1 N) and 2×50 mL of brine, dried over anhydrous sodium sulfate, and concentrated under vacuum. This resulted in 2.2 g (96%) of 5-(3-(trifluoromethyl)phenyl)thiazol-2-amine as a white solid.

reactant | 2-bromo-1-(3-(trifluoromethyl)phenyl)ethanone | 9.40 mmol, 2.5 g, 1.00 equiv | BrCC(=O)C1=CC(=CC=C1)C(F)(F)F | C9H6BrF3O
reactant | thiourea | 9.33 mmol, 710 mg, 1.00 equiv | NC(=S)N | CH4N2S
solvent | methanol | 50 mL | CO | CH4O
product | 5-(3-(trifluoromethyl)phenyl)thiazol-2-amine | FC(C=1C=C(C=CC1)C1=CN=C(S1)N)(F)F | C10H7F3N2S
